US06897231B2
[3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-(2-PIPERIDYLETHYL)CARBOXAMIDE
The title compound was prepared as described in Example 381, using methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.402 g, 0.62 mmol) and lithium hydroxide (0.083 g, 1.98 mmol) in tetrahydrofuran (3 mL) and water (2 mL); 1-hydroxybenzotriazole (0.255 g, 1.89 mmol), 1-(2-aminoethyl)piperidine (0.267 mL, 1.87 mmol), 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.361 g, 1.88 mmol), and additional tetrahydrofuran (2 mL); 4 N hydrochloride solution in dioxane (10 mL). The final crude product was purified by preparative HPLC (10-90% acetonitrile in H2O, 20 min.) (0.072 g, 28% yield over 3 steps): 1H NMR (CD3OD) δ 8.80 (dd, 1H), 8.47 (t, 1H), 8.24 (s, 1H), 8.21 (dt, 2H), 8.13 (dd, 1H), 7.91 (dt, 1H), 7.67 (d, 2H), 3.62 (t, 2H), 2.65 (t, 2H), 2.55 (br s, 4H), 1.63 (m, 4H), 1.48 (d, 2H); ES-MS (m/z) 416 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.62 mmol, 0.402 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide | 1.98 mmol, 0.083 g | [OH-].[Li+]
reactant | 1-hydroxybenzotriazole | 1.89 mmol, 0.255 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(2-aminoethyl)piperidine | 1.87 mmol, 0.267 mL | NCCN1CCCCC1 | C7H16N2
reactant | 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.88 mmol, 0.361 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-(2-PIPERIDYLETHYL)CARBOXAMIDE | 28% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCCC1NCCCC1 | C23H25N7O
